* Z:\mnt\design.r\spice\examples\3539-2.asc
L1 IN N001 2.7µ Rser=5m Rpar=5K
V1 IN 0 2
R1 OUT N002 1Meg
R2 N002 0 562K
C1 OUT 0 22µ Rser=1m
Rload OUT 0 5.5
C2 OUT N002 22p
XU1 N001 0 0 IN IN N002 IN OUT LTC3539-2
.tran 750u startup
.lib LTC3539-2.sub
.backanno
.end
